US07608718B2
Part B: To a stirred suspension of 3-(4-chlorophenyl)-N-(((ethyl)propyl-amino)sulfonyl)-4-phenyl-4,5-dihydro-1H-pyrazole-1-thiocarboxamide (2.32 gram, 5 mmol) in acetonitrile (20 mL) is added cold methylamine (4 mL). To the resulting solution is added a solution of HgCl2 (1.5 gram) in acetonitrile (10 mL). The resulting black suspension is stirred for four hours. The precipitate is removed by filtration. The filtrate is concentrated in vacuo, dissolved in dichloromethane and successively washed with aqueous 0.5 N NaOH solution and water, dried over Na2SO4, filtered and concentrated in vacuo. The resulting oil is crystallized from diethyl ether to give 3-(4-chlorophenyl)-N′-(((ethyl)propylamino)sulfonyl)-N-methyl-4-phenyl-4,5-dihydro-1H-pyrazole-1-carboxamidine (1.78 gram, 77% yield). Melting point (MP):129-131° C.

reactant | 3-(4-chlorophenyl)-N-(((ethyl)propyl-amino)sulfonyl)-4-phenyl-4,5-dihydro-1H-pyrazole-1-thiocarboxamide | 5 mmol, 2.32 gram | ClC1=CC=C(C=C1)C1=NN(CC1C1=CC=CC=C1)C(NS(=O)(=O)N(CCC)CC)=S | C21H25ClN4O2S2
reactant | methylamine | 4 mL | CN | CH5N
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
catalyst | HgCl2 | 1.5 gram | Cl[Hg]Cl
product | 3-(4-chlorophenyl)-N′-(((ethyl)propylamino)sulfonyl)-N-methyl-4-phenyl-4,5-dihydro-1H-pyrazole-1-carboxamidine | 1.78 gram, 77% yield | ClC1=CC=C(C=C1)C1=NN(CC1C1=CC=CC=C1)C(=NS(=O)(=O)N(CCC)CC)NC | C22H28ClN5O2S
